US05149859
Synthesis of N-hydroxy-N-(1-hydroxy-2-naphthyl)-4-methoxycarbonyl-3-oxabutanamide
Into a 25 ml methylene chloride solution of 500 mg (3.38 mmol) of methyl diglycolate and 200 μl (3.38 mmol) of DMF was added 660 μl (7.60 mmol) of oxalyl chloride at 0° C., and the mixture was stirred as such for one hour. The mixture was added to a solution of 3.6 g (17 mmol) of 1-hydroxy-2-naphthylhydroxylamine hydrochloride, 3.5 ml (25 mmol) of triethylamine in THF (25 ml), and water (5 ml), at 0° C., and after stirring at 0° C. for one hour and at room temperature for one hour, the reaction was completed with aqueous KHSO4, and the mixture was extracted with methylene chloride. The organic layer was washed with 4N HCl and with saturated aqueous NaCl, and then dried over anhydrous magnesium sulfate, and after evaporation of the solvent under a reduced pressure, the residue was subjected to silica gel column chromatography to give 710 mg (69%) of the desired product.

reactant | methyl diglycolate | 3.38 mmol, 500 mg | C(COCC(=O)[O-])(=O)OC
reactant | DMF | 3.38 mmol, 200 μl | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 7.60 mmol, 660 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-hydroxy-2-naphthylhydroxylamine hydrochloride | 17 mmol, 3.6 g | Cl.OC1=C(C=CC2=CC=CC=C12)NO
reactant | triethylamine | 25 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-hydroxy-N-(1-hydroxy-2-naphthyl)-4-methoxycarbonyl-3-oxabutanamide | 710 mg, 69% | ON(C(COCC(=O)OC)=O)C1=C(C2=CC=CC=C2C=C1)O | C15H15NO6
